US06649643B1
Production of 1-(1,2-Dihydronaphtho[2,1-b]furan-7-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
A mixture of 1-(1H-imidazol-4-yl)-1-(naphtho[2,1-b]furan-7-yl)-2-methyl-1-propanol (0.310 g) and 5% rhodium carbon (1.50 g) in acetic acid (50 mL) was stirred at room temperature for 7 h under hydrogen atmosphere at 4 atom pressure. Catalyst was filtered off, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated sodium bicarbonate solution and brine, dried and concentrated. The residue was chromatographed on silica gel (eluent; dichloromethane:methanol=20:1) followed by crystallization from ethyl acetate to give the titled compound (0.107 g) as a colorless solid.

reactant | 1-(1H-imidazol-4-yl)-1-(naphtho[2,1-b]furan-7-yl)-2-methyl-1-propanol | 0.310 g | N1C=NC(=C1)C(C(C)C)(O)C=1C=C2C=CC=3OC=CC3C2=CC1 | C19H18N2O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | rhodium carbon | 1.50 g | [C].[Rh]
product | 1-(1,2-Dihydronaphtho[2,1-b]furan-7-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.107 g | C1C2=C(OC1)C=CC1=CC(=CC=C12)C(C(C)C)(O)C=1N=CNC1 | C19H20N2O2
